US06482824B1
A suspension of 4-ethoxybenzaldehyde (20 g, 0.133 mol) and α-formylethylidenetriphenylphosphorane (46.6 g, 0.146 mol) in dried toluene (400 ml) was heated with stirring at reflux under an atmosphere of nitrogen for 40 h. The mixture was cooled, diethyl ether added and filtered through a pad of celite. The filtrate was evaporated and the residue taken up in diethyl e;her and the resulting suspension purified on flash silica eluting with hexane-diethyl ether (4:1). The resulting oil was crystallised from hexane-diethyl ether to give 3-(4-ethoxyphenyl)-2-methylpropenaldehyde as yellow crystals.

reactant | 4-ethoxybenzaldehyde | 0.133 mol, 20 g | C(C)OC1=CC=C(C=O)C=C1 | C9H10O2
reactant | α-formylethylidenetriphenylphosphorane | 0.146 mol, 46.6 g | C(=O)C(C)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-ethoxyphenyl)-2-methylpropenaldehyde | C(C)OC1=CC=C(C=C1)C=C(C=O)C | C12H14O2
